US06982348B2
To a solution of ethyl 3-oxo-3-(4-pyridyl)propionate (13.9 g, 72.0 mmol) in 1,2-dimethoxyethane (100 ml) was added sodium hydride (60% in oil, 2.88 g, 72.0 mmol) under ice-cooling, and the mixture was stirred at room temperature for 30 min. To the reaction solution was dropwise added a solution of 4-trifluoromethylbenzyl bromide (17.2 g, 72.0 mmol) in 1,2-dimethoxyethane (50 ml), and the mixture was stirred at room temperature for 4 hrs. The reaction solution was poured into water (300 ml), and extracted with ethyl acetate (500 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) and recrystallized from ethyl acetate-hexane to give ethyl 3-oxo-3-(4-pyridyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionate (10.9 g, 43%).

reactant | ethyl 3-oxo-3-(4-pyridyl)propionate | 72.0 mmol, 13.9 g | O=C(CC(=O)OCC)C1=CC=NC=C1 | C10H11NO3
reactant | sodium hydride | 72.0 mmol, 2.88 g | [H-].[Na+]
reactant | 4-trifluoromethylbenzyl bromide | 72.0 mmol, 17.2 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | water | 300 ml | O | H2O
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | ethyl 3-oxo-3-(4-pyridyl)-2-((4-(trifluoromethyl)phenyl)methyl)propionate | 10.9 g, 43% | O=C(C(C(=O)OCC)CC1=CC=C(C=C1)C(F)(F)F)C1=CC=NC=C1 | C18H16F3NO3
